US07538123B2
(1) 3-Methoxy-6-nitro-4-(2-propenyl)benzylalcohol
4.68 g of 3-hydroxy-6-nitro-4-(2-propenyl)benzylalcohol was dissolved in 90 ml of N,N-dimethylformamide. Thereafter, 3.71 g of potassium carbonate and 3.81 g of iodomethane were added to the reaction solution, and the obtained mixture was stirred at room temperature overnight. The reaction solution was extracted with ethyl acetate, and then washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was then purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 3.93 g of the subject compound.

reactant | 3-hydroxy-6-nitro-4-(2-propenyl)benzylalcohol | 4.68 g | OC=1C=C(CO)C(=CC1CC=C)[N+](=O)[O-] | C10H11NO4
reactant | potassium carbonate | 3.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 3.81 g | IC | CH3I
solvent | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-Methoxy-6-nitro-4-(2-propenyl)benzylalcohol | 3.93 g | COC=1C=C(CO)C(=CC1CC=C)[N+](=O)[O-] | C11H13NO4
